US07091232B2
Procedure for the Preparation of 4-(3-ethyl-cyclohex-3-enylmethyl)-1,3-dihydro-imidazol-2-one (Compound 59)
A mixture of NiCl2 (0.364 g, 2.81 mmol) in EtOH (20 mL) was reacted with NaBH4 (0.053 mg, 1.40 mmol) at rt for 15 m after saturation of the solution with hydrogen gas. Ethylene diamine (0.17 g, 2.81 mmol) was added followed by the alkynyl imidazol (Intermediate R15, 0.26 g, 1.40 mmol) at rt for 45 m under an atmosphere of hydrogen gas. The mixture was filtered, diluted with chloroform and subjected to an aqueous work-up. The residue was purified by chromatography on SiO2 to give 4-(3-vinyl-cyclohex-3-enylmethyl)-1H-imidazole (72%). To 4-(3-vinyl-cyclohex-3-enylmethyl)-1H-imidazole (0.09 g, 0.47 mmol) in ethanol (3 mL) at 0° C. was added H2NNH2.H2O (0.93 mL, 19.1 mmol) followed by H2O2 (30%) (0.488 g, 14.4 mmol) and the mixture was stirred for 45 m at 0° C. and an additional 6 h at rt. The reaction was quenched and the material was purified by an aqueous work-up. The imidazole compound was purified further by isolation of the fumaric acid salt. The fumarate was converted to the compound 4-(3-ethyl-cyclohex-3-enylmethyl)-1,3-dihydro-imidazol-2-one (Compound 59) by the applicable step of Method P.

reactant | 4-(3-vinyl-cyclohex-3-enylmethyl)-1H-imidazole | 0.47 mmol, 0.09 g | C(=C)C=1CC(CCC1)CC=1N=CNC1 | C12H16N2
reactant | H2NNH2.H2O | 19.1 mmol, 0.93 mL | NN.O
reactant | H2O2 | 14.4 mmol, 0.488 g | OO | H2O2
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 4-(3-ethyl-cyclohex-3-enylmethyl)-1,3-dihydro-imidazol-2-one | C(C)C=1CC(CCC1)CC=1NC(NC1)=O | C12H18N2O
